US05190969
Preparation of (2S-cis)-3-(Benzyloxymethyl)oxirane methanol.
To a slurry of 5.0 g of powdered 4A molecular sieves in 400 ml of dry CH2Cl2 was added 2.09 g (8.42 mmole) of Ti(Oi-Pr)4 and 2.76 g (11.8 mmole) of L(+)diisopropyl tartrate at O'C under argon. The mixture was allowed to stir for 10 min, cooled to -20° C., and 22.5 ml of 3.8M tert-butyl hydroperoxide in isooctane is added slowly at -20° C. The catalyst was allowed to "age" for 30 min. A solution of 7.50 g (42.1 mmole) of Z-4-(benzyloxy)-2-buten-1-ol in 15 ml of CH2Cl2 was dried over 3A molecular sieves for 15 min and then added to the mixture at -20° C. over 10 min. The mixture was allowed to stand in a refrigerator at 2° C. for 8 days. The reaction mixture was removed from the refrigerator and 40 ml of H2O was added with stirring. After stirring for 30 min, 15 ml of 30% NaOH in saturated brine was added and the mixture was allowed to stir 60 min longer. The organic layer was separated and the aqueous layer washed twice with 50 ml of CH2Cl2. The organic layers were combined, dried over MgSO4, filtered and evaporated to afford a milky, pale yellow oil. Distillation yielded 4.80 g of a clear viscous oil, bp 132°-5° C. (0.2 mm Hg). 1H NMR, δ7.4-7.2 (m, 5), 4.58 (dd, 2, J=12, 20 Hz), 3.7 (m, 4), 3.27 (ddd, 2, J=5, 10, 15 Hz), 1.98 (t, 1, J=6 Hz). Mass Spectra; EI; M+, Calc. 194.0942, Found 194.0929.

reactant | tert-butyl hydroperoxide | 3.8M, 22.5 ml | C(C)(C)(C)OO | C4H10O2
reactant | Z-4-(benzyloxy)-2-buten-1-ol | 42.1 mmole, 7.50 g | C(C1=CC=CC=C1)OC\C=C/CO | C11H14O2
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
solvent | isooctane | C(C)(C)CC(C)(C)C | C8H18
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | (2S-cis)-3-(Benzyloxymethyl)oxirane methanol | 4.80 g | C(C1=CC=CC=C1)OC[C@@H]1[C@@H](O1)CO | C11H14O3
